US08865726B2
To a suspension of (S)—N-(2-hydroxyethyl)-2-(4-(5-(4-isopropyl-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)benzoyl)hydrazinecarboxamide (14.4 mg, 0.031 mmol) in dichloromethane (1 mL) and MeCN (1 mL) was added PS-triphenylphosphine resin (0.054 g, 2.28 mmol/g, 0.123 mmol), triethylamine (44 μL, 0.308 mmol), and CCl4 (12 μL, 0.123 mmol), and the reaction mixture was heated to 50° C. for 4 hours. After the mixture was cooled at ambient temperature, the reaction mixture was treated with EtOAc, washed with water, dried over MgSO4, and concentrated under reduced pressure. The crude was then purified by preparative plate silica gel chromatography (10% MeOH in dichloromethane) to afford 5 mg (35%) of (S)-3-(3-(4-(5-(2-hydroxyethylamino)-1,3,4-oxadiazol-2-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-isopropyloxazolidin-2-one. 1H NMR (400 MHz, CDCl3) δ 8.60 (d, 1H), 8.43 (s, 1H), 8.08 (m, 3H), 7.92 (d, 2H), 4.96 (m, 1H), 4.44 (m, 2H), 3.94 (t, 2H), 3.65 (m, 2H), 2.88 (m, 1H), 1.09 (d, 3H), 0.95 (d, 3H); LCMS (APCI+) m/z 450.6 [M+H]+.

reactant | (S)—N-(2-hydroxyethyl)-2-(4-(5-(4-isopropyl-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)benzoyl)hydrazinecarboxamide | 0.031 mmol, 14.4 mg | OCCNC(=O)NNC(C1=CC=C(C=C1)C=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C(C)C)=O)=O | C22H25N7O5
reactant | triphenylphosphine resin | 0.123 mmol, 0.054 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | triethylamine | 0.308 mmol, 44 μL | C(C)N(CC)CC | C6H15N
reactant | CCl4 | 0.123 mmol, 12 μL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | MeCN | 1 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-3-(3-(4-(5-(2-hydroxyethylamino)-1,3,4-oxadiazol-2-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-isopropyloxazolidin-2-one | 5 mg, 35% | OCCNC1=NN=C(O1)C1=CC=C(C=C1)C=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C(C)C)=O | C22H23N7O4
